US09102632B2
200 mg (0.51 mM) of 5-bromo-3-[(4-chlorobenzyl)sulfonyl]-1-ethylpyrazin-2(1H)-one and 20 mg of tetrakis Pd(PPh3) in 4 ml of toluene were stirred for 10 min at room temperature under nitrogen atmosphere. 93.4 mg (0.77 mM) of phenyl boronic acid and 1.5 ml of a 2M cesium carbonate aqueous solution were added and the reaction mixture was refluxed under stirring for 1 h30. 10 ml of water and 10 ml of toluene were added, the organic layer was separated. The aqueous layer was extracted with toluene and the combined organic layer was separated and washed with water, dried on anhydrous sodium sulfate and concentrated under vacuum. The residue was further purified by silica gel column chromatography, using dichloromethane/dimethylketone (95/5) as eluant, to give 52 mg of 3-[(4-chlorobenzyl)sulfonyl]-1-ethyl-5-phenylpyrazin-2(1H)-one as a solid. Yield: 26%.

reactant | 5-bromo-3-[(4-chlorobenzyl)sulfonyl]-1-ethylpyrazin-2(1H)-one | 0.51 mM, 200 mg | BrC=1N=C(C(N(C1)CC)=O)S(=O)(=O)CC1=CC=C(C=C1)Cl | C13H12BrClN2O3S
reactant | phenyl boronic acid | 0.77 mM, 93.4 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 2M | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 10 ml | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(4-chlorobenzyl)sulfonyl]-1-ethyl-5-phenylpyrazin-2(1H)-one | 52 mg, Yield: 26% | ClC1=CC=C(CS(=O)(=O)C=2C(N(C=C(N2)C2=CC=CC=C2)CC)=O)C=C1 | C19H17ClN2O3S
